US04303655
A mixture of 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid, which can be represented as 2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid, (0.92 g.) and water (10 ml.) was adjusted to pH 7 to 7.5 with a 10% sodium hydroxide aqueous solution, and to the mixture was added manganese dioxide (1.74 g.) and then the mixture was stirred for 5 hours at 50° to 60° C. After the reaction, manganese dioxide was filtered off and then washed with a small amount of water. The filtrate and washing were combined together, adjusted to pH 1 with concentrated hydrochloric acid and then stirred for 15 minutes under ice-cooling. The precipitates were collected by filtration, washed with water and then dried to give 2-(2-amino-1,3-thiazol-5-yl)glyoxylic acid, which can be represented as 2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)glyoxylic acid, (0.53 g.), mp. 185° to 250° C. (dec.).

reactant | 2-hydroxy-2-(2-amino-1,3-thiazol-5-yl)acetic acid | OC(C(=O)O)C1=CN=C(S1)N | C5H6N2O3S
reactant | 2-hydroxy-2-(2-imino-2,3-dihydro-1,3-thiazol-5-yl)acetic acid | OC(C(=O)O)C1=CNC(S1)=N | C5H6N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | manganese dioxide | 1.74 g | [O-2].[O-2].[Mn+4]
solvent | water | 10 ml | O | H2O
product | 2-(2-amino-1,3-thiazol-5-yl)glyoxylic acid | NC=1SC(=CN1)C(C(=O)O)=O | C5H4N2O3S
